US07601714B2
N4-[(trans-4-aminocyclohexyl)methyl]-5-nitro-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine
To a solution of 2-chloro-5-nitro-4-thiocyanatopyrimidine (1 g, 4.6 mmol) in DMF (5 mL) was added 2-(trifluoromethoxy)benzylamine (883 mg, 4.6 mmol) followed by DIPEA (804 μL, 4.6 mmol). The reaction mixture was stirred at room temperature for 30 min and diluted with EtOAc. The solution was washed with water (×4). The organic phase was dried over anhydrous Na2SO4 and then concentrated in vacuo. The resulting residue was purified by silica gel prep TLC using CH2Cl2 as an eluent to afford 727 mg (42%) of the desired product as a yellowish solid.

reactant | 2-chloro-5-nitro-4-thiocyanatopyrimidine | 4.6 mmol, 1 g | ClC1=NC=C(C(=N1)SC#N)[N+](=O)[O-] | C5HClN4O2S
reactant | 2-(trifluoromethoxy)benzylamine | 4.6 mmol, 883 mg | FC(OC1=C(CN)C=CC=C1)(F)F | C8H8F3NO
reactant | DIPEA | 4.6 mmol, 804 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N4-[(trans-4-aminocyclohexyl)methyl]-5-nitro-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine | 727 mg, 42% | N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=C(C=CC=C1)OC(F)(F)F | C19H23F3N6O3
